US04808589
To a solution of S-(4-dimethylaminomethyl-2-pyridylmethyl)isothiourea trihydrochloride (11.88 g) and 4-chlorobutyronitrile (5.21 g) in water (50 ml) and ethanol (35 ml) at 0° C. (ice-salt bath) under nitrogen, was added dropwise over 20 minutes a solution of sodium hydroxide (6.4 g) in water (65 ml), keeping the temperature below 5° C. After having been stirred for 5 hours and allowed to stand for 20 hours, the solution was extracted with 3:1 chloroform:ethanol (3×100 ml) and the combined extracts washed with water and dried (MgSO4). Solvent was evaporated at reduced pressure and the residue vacuum-distilled to give 4-(4-dimethylaminomethyl-2-pyridylmethylthio)butyronitrile (7.16 g) as a pale yellow liquid, b.p.0.01 mm 170° C.

reactant | S-(4-dimethylaminomethyl-2-pyridylmethyl)isothiourea trihydrochloride | 11.88 g | Cl.Cl.Cl.CN(C)CC1=CC(=NC=C1)CSC(N)=N
reactant | 4-chlorobutyronitrile | 5.21 g | ClCCCC#N | C4H6ClN
reactant | sodium hydroxide | 6.4 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 65 ml | O | H2O
product | 4-(4-dimethylaminomethyl-2-pyridylmethylthio)butyronitrile | 7.16 g | CN(C)CC1=CC(=NC=C1)CSCCCC#N | C13H19N3S
